US05643878
36a) N-Chlorosulfonylmorpholine
With intensive cooling, 32.7 ml of sulfuryl chloride are added at approximately 0° C. to 23.5 ml of morpholine. The suspension is then carefully heated to 60° C., causing the onset of hydrogen chloride evolution. After 5 h at 60° C., the evolution of hydrogen chloride is complete. The cooled brown reaction mixture is poured onto ice, and the precipitating oil is extracted with ether, washed with water, 5% sodium hydrogen carbonate solution and water and dried with sodium sulfate. The organic phases are concentrated by evaporation and distilled at elevated temperature and reduced pressure (90° C.; 1 mbar) to yield the title compound: 1H-NMR (200 MHz, DMSO-d6): 3.80 and 3.29 (2t, 5 Hz, per 4 H).

reactant | sulfuryl chloride | 32.7 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | hydrogen chloride | Cl | ClH
product | N-Chlorosulfonylmorpholine | ClS(=O)(=O)N1CCOCC1 | C4H8ClNO3S
